US04009166
To a solution of 2.6 g of 1-(m-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine and 20 ml of dimethylformamide was added 0.6 g of sodium hydride and the mixture was stirred for 15 minutes. To this was further added 3.4 g of fluoromethylsulfate, and stirring was continued for 1.5 hours at room temperature. After the reaction was finished, the solvent was distilled off from the resulting mixture under reduced pressure. The residue thus obtained was diluted with water, extracted with ether and dehydrated. The ether solution was applied on a column of alumina, and then eluted with ether. The ether was evaporated from the eluate, and the residue was recrystallized from a mixture of ether and petroleum ether to give 2.1 g of 1-(m-chlorophenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless prisms, melting at 139° - 140° C.

reactant | 1-(m-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 2.6 g | ClC=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O | C13H10ClN3O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | fluoromethylsulfate | 3.4 g | FCOS(=O)(=O)[O-]
solvent | water | O | H2O
product | 1-(m-chlorophenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 2.1 g | ClC=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)C)=O | C14H12ClN3O
